US06528525B1
3-[4-[2-(4′-Trifluoromethylbiphenyl-4-carbonylamino)ethoxy]phenyl]-2-phenoxypropionic acid (exemplification No. 6-191 compound)
In a similar manner to that described in Example 2, ethyl 3-[4-[2-(4′-trifluoromethylbiphenyl-4-carbonylamino)ethoxy]phenyl]-2-phenoxypropionate (1.10 g), which is the product of Example 81, was reacted with aqueous sodium hydroxide solution (1N, 5.00 ml) and the reaction mixture was treated to give the title compound (850 mg) as a white powder.

reactant | ethyl 3-[4-[2-(4′-trifluoromethylbiphenyl-4-carbonylamino)ethoxy]phenyl]-2-phenoxypropionate | 1.10 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1)(F)F | C33H30F3NO5
reactant | sodium hydroxide | 1N, 5.00 ml | [OH-].[Na+]
product | 3-[4-[2-(4′-Trifluoromethylbiphenyl-4-carbonylamino)ethoxy]phenyl]-2-phenoxypropionic acid | 850 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NCCOC1=CC=C(C=C1)CC(C(=O)O)OC1=CC=CC=C1)(F)F | C31H26F3NO5
